US05660598
N-(1-Ethyl-3-methylpentyl)aniline was prepared from aniline and 5-methylheptan-3-one using the same method as in Example 2i).

reactant | aniline | NC1=CC=CC=C1 | C6H7N
reactant | 5-methylheptan-3-one | CC(CC(CC)=O)CC | C8H16O
product | N-(1-Ethyl-3-methylpentyl)aniline | C(C)C(CC(CC)C)NC1=CC=CC=C1 | C14H23N
